US06174901B1
Step A: 1-benzyl-1-cyclopropanecarbonitrile:
A solution of cyclopropyl cyanide (3.0 mL, 40 mmol) in 20 mL THF was dropwise added to a stirred, freshly prepared, mixture of lithium diisopropylamide (40 mmol) in THF (100 mL) at −78° C. After 30 min, a solution of benzyl bromide 7.8 mL, 60 mmol) in THF (20 mL) was dropwise added. The resulting mixture was warmed slowly over several hrs and stirred at rt 48 hr. The reaction was quenched (250 mL saturated NH4Cl), extracted with ether (3×100 mL) and the combined organic extracts were dried (MgSO4), filtered and concentrated to afford a yellow oil.

reactant | cyclopropyl cyanide | 40 mmol, 3.0 mL | C1(CC1)C#N | C4H5N
reactant | lithium diisopropylamide | 40 mmol | C(C)(C)[N-]C(C)C.[Li+]
reactant | benzyl bromide | 60 mmol, 7.8 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1-benzyl-1-cyclopropanecarbonitrile | C(C1=CC=CC=C1)C1(CC1)C#N | C11H11N
